Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Augmentin / azithromycin / ketoconazole / paclitaxel / 
oxycodone / Dilaudid / Macrobid
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms. ___ is a ___ woman with history of
recurrent ovarian cancer presenting with abdominal pain. 

The patient tells me has had abdominal pain for several months,
primarily located in her left upper and lower quadrant, the pain
is dull. Initially ___ but has progressed to ___. Given her
persistent abdominal pain, she had a CT on ___, which showed
recurrence of her ovarian cancer. She was seen by her oncologist
on ___, with plan to start chemotherapy on ___.

She reports that her appetite has been very poor, and she has 
not
been eating or drinking much at home. She denies any fevers or
chills. She does endorse dysuria, which she states has worsened
in the past few days. She is moving her bowels. 

She called her oncology office on ___ to report worsened
abdominal pain, decreased oral intake, and weakness. She 
reported
that due to weakness she did not feel safe staying at home. She
was advised o present to the ED for further management.

In the ED, initial vitals: 97.3 84 133/95 18 100% RA
Exam notable for: 
- Abd: Soft, non-distended. bowel sounds present. mild pain to
palpation in LUQ, LLQ. More significant pain to palpation in
suprapubic region. 
- GU: mild L CVAT.
Labs notable for: WBC 6.1 Hb 10.3; BMP wnl; UA with few 
bacteria,
WBC 8, moderate leuks
Patient given: Morphine 4mg x2, 1L NS

On arrival to the floor, the patient reports that she feels 
itchy
after receiving morphine; denies shortness of breath.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
ovarian CA s/p total hysterectomy, chemo (last tx~ ___ year ago)
hypothyroidism
- Developmental delay with learning disability attributed to 
childhood viral encephalitis
- Depression
- Headaches
- Raynaud's disease
- Undifferentiated connective tissue disorder
- IBS
 
Social History:
___
Family History:
DIABETES MELLITUS; 
PSORIASIS
 
Physical Exam:
ADMISSION
VITALS: 98.6 128 / 85 66 18 96 RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally. Breathing is non-labored
GI: Abdomen soft, non-distended, mildly tender to palpation in
left lower quadrant. Bowel sounds present. 
GU: + suprapubic tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: Pleasant, appropriate affect

DISCHARGE
 
Pertinent Results:
ADMISSION

___ 04:00PM BLOOD WBC-6.1 RBC-4.28 Hgb-10.3* Hct-34.6 
MCV-81* MCH-24.1* MCHC-29.8* RDW-16.6* RDWSD-48.3* Plt ___
___ 04:00PM BLOOD Neuts-71.5* ___ Monos-4.9* 
Eos-1.8 Baso-0.3 Im ___ AbsNeut-4.35 AbsLymp-1.30 
AbsMono-0.30 AbsEos-0.11 AbsBaso-0.02
___ 04:00PM BLOOD Plt ___
___ 04:00PM BLOOD Glucose-95 UreaN-14 Creat-0.9 Na-139 
K-4.1 Cl-101 HCO3-25 AnGap-13
___ 04:00PM BLOOD ALT-23 AST-25 AlkPhos-143* TotBili-0.2
___ 06:42AM BLOOD Calcium-8.8 Phos-3.3 Mg-1.6
___ 06:55AM BLOOD Lactate-0.9

KUB ___
Normal gas pattern

DISCHARGE
 
Brief Hospital Course:
# Abdominal pain, acute on subacute:
# Ovarian cancer, recurrent: 
Abdominal pain most consistent with cancer-related pain given 
similar to pain at first cancer diagnosis, normal KUB, and less 
likely urinary pain given distribution and unimpressive UA with 
no fever or leukocytosis. Initially treated with morphine, first 
IV and then oral given diffuse pruritis on IV morphine. However, 
still had pruritis on PO morphine, so changed to tramadol 
overnight, which she is tolerating better. The patient preferred 
to stay in the hospital to initiate chemotherapy and she was 
given carboplatin on ___ (4th dose overall).
- continue tramadol 50 mg q4h prn pain
- Continue Tylenol, gabapentin
- Bowel regimen
- Follow-up with Oncology at appointment in 2 days

#Dysuria
Several month history of dysuria and recurrent cystitis. Patient 
seen by urology on ___ and had cystoscopy that was normal. Her 
pain was not thought to be urothelial in origin. On this 
admission UA unimpressive, no leukocytosis or fever. 
Discontinued antibiotics started on admission. Urine culture 
with mixed bacterial flora.

#Weakness
Suspect overall deconditioning. She is able to ambulate with her 
nurse and on exam her strength is fully intact in all 
extremities.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amitriptyline 25 mg PO QHS 
2. ARIPiprazole 2 mg PO QHS 
3. DULoxetine 120 mg PO DAILY 
4. Gabapentin 300 mg PO QAM 
5. Levothyroxine Sodium 75 mcg PO DAILY 
6. LORazepam 1 mg PO QHS:PRN Anxiety 
7. Losartan Potassium 25 mg PO DAILY 
8. Omeprazole 40 mg PO DAILY:PRN heartburn 
9. Gabapentin 300 mg PO QPM 
10. Gabapentin 600 mg PO QHS 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every 8 hours Disp 
#*180 Tablet Refills:*0 
2.  Bisacodyl 10 mg PO DAILY:PRN Constipation - Second Line 
RX *bisacodyl [Laxative (bisacodyl)] 5 mg ___ tablet(s) by mouth 
daily PRN Disp #*30 Tablet Refills:*0 
3.  Bisacodyl 10 mg PR QHS:PRN Constipation - Second Line 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *bisacodyl [Bisac-Evac] 10 mg 1 suppository(s) rectally daily 
PRN Disp #*30 Suppository Refills:*0 
4.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*0 
5.  Ondansetron 8 mg PO BID Duration: 2 Days 
RX *ondansetron 8 mg 1 tablet(s) by mouth twice a day Disp #*4 
Tablet Refills:*0 
6.  Ondansetron 8 mg PO Q8H:PRN Nausea/Vomiting - First Line 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *ondansetron 8 mg 1 tablet(s) by mouth every 8 hours PRN Disp 
#*60 Tablet Refills:*0 
7.  Polyethylene Glycol 17 g PO BID 
RX *polyethylene glycol 3350 [Miralax] 17 gram/dose 1 powder(s) 
by mouth twice a day Refills:*0 
8.  Prochlorperazine 5 mg PO Q6H:PRN Nausea/Vomiting - Second 
Line 
RX *prochlorperazine maleate [Compazine] 5 mg 1 tablet(s) by 
mouth every 6 hours PRN Disp #*60 Tablet Refills:*0 
9.  TraMADol 50 mg PO Q4H:PRN Pain - Moderate 
RX *tramadol 50 mg 1 tablet(s) by mouth every 4 hours PRN Disp 
#*36 Tablet Refills:*0 
10.  Amitriptyline 25 mg PO QHS  
11.  ARIPiprazole 2 mg PO QHS  
12.  DULoxetine 120 mg PO DAILY  
13.  Gabapentin 600 mg PO QHS  
14.  Gabapentin 300 mg PO QPM  
15.  Gabapentin 300 mg PO QAM  
16.  Levothyroxine Sodium 75 mcg PO DAILY  
17.  LORazepam 1 mg PO QHS:PRN Anxiety  
18.  Omeprazole 40 mg PO DAILY:PRN heartburn  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___:
Recurrent ovarian cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You came to the hospital with abdominal pain which was 
determined to be from ovarian cancer.  You were given 
chemotherapy with carboplatin on ___.  You were given 
medications to treat your pain including Tylenol, tramadol and 
gabapentin.

At discharged, you are also being prescribed medications to help 
with nausea and constipation.

Please follow-up with your Oncologist and PCP at the 
appointments below.
You came to the hospital with abdominal pain which was 
determined to be from ovarian cancer.  You were given 
chemotherapy with carboplatin on ___.  You were given 
medications to treat your pain including Tylenol, tramadol and 
gabapentin.

At discharged, you are also being prescribed medications to help 
with nausea and constipation.

Please follow-up with your Oncologist and PCP at the 
appointments below.
 
Followup Instructions:
___